US06087380
2-[(4-amidinophenyl)thiomethyl]-benzothiazol-5-yl-carboxylic acid-N-phenyl-N-(2-hydroxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 10 from 2-[(4-amidinophenyl)thio-methyl]-benzothiazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride and sodium hydroxide solution. Yield: 95% of theory, C25H22N4O3S2 (490.61) Rf value: 0.25 (Merck RP-8, methanol/5% NaCl solution=6:4) ##EQU3##

reactant | 2-[(4-amidinophenyl)thio-methyl]-benzothiazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Cl.C1(=CC=CC=C1)N(C(=O)C=1C=CC2=C(N=C(S2)CSC2=CC=C(C=C2)C(N)=N)C1)CCC(=O)OCC
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 2-[(4-amidinophenyl)thiomethyl]-benzothiazol-5-yl-carboxylic acid-N-phenyl-N-(2-hydroxycarbonylethyl)-amide-hydrochloride | Yield: 95% | Cl.C1(=CC=CC=C1)N(C(=O)C=1C=CC2=C(N=C(S2)CSC2=CC=C(C=C2)C(N)=N)C1)CCC(=O)O | InChI=1S/C25H22N4O3S2.ClH/c26-24(27)16-6-9-19(10-7-16)33-15-22-28-20-14-17(8-11-21(20)34-22)25(32)29(13-12-23(30)31)18-4-2-1-3-5-18;/h1-11,14H,12-13,15H2,(H3,26,27)(H,30,31);1H
